US06242443B1
b) 4-Amino-3-sulfamoylbenzoic acid
A suspension of 3-oxo-2,3-dihydro-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide monohydrate (10 g) in a mixture of concentrated sulfuric acid (150 mL) and water (150 mL) was refluxed until complete dissolution of the starting material (1-2 h). The resulting solution was placed on an ice bath and supplemented dropwise with a 20% aqueous solution of NaOH under stirring and cooling until pH 1-2. The precipitate was collected by filtration, washed with water and dried (yield: 6.6 g); m.p.: 214-219° C.

reactant | 3-oxo-2,3-dihydro-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide monohydrate | 10 g | O.O=C1NS(C2=C(N1)C=CC(=C2)C(=O)O)(=O)=O
reactant | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | water | 150 mL | O | H2O
product | 4-Amino-3-sulfamoylbenzoic acid | NC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H8N2O4S
